Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Small bowel obstruction 
 
Major Surgical or Invasive Procedure:
___: ERCP w/ sphincterotomy

 
History of Present Illness:
___ with 2 days of worsening abdominal distention. Denies 
significant abdominal pain, but endorses nausea and vomiting. 
She is unable to tolerate PO, did tolerate a few sips of broth 
yesterday. She denies fevers at home. Last BM and flatus two 
days ago. She has a recent admission ___ for similar symptoms 
and a SBO with a transition point in a similar position as 
today, which was successfully managed conservatively. She also 
of note had a ventral hernia repair ___ ___. 

 
Past Medical History:
Past Medical History:
1) Hypertension
2) Diabetes mellitus type II
3) Ovarian cancer s/p TAH/BSO
4) Sigmoid diverticulosis on ___ CT scan
5) Right shoulder pain
6) Osteoarthritis

Past Surgical History:
1) TAH/BSO via midline suprapubic incision in ___
2) ex-lap, ventral hernia repair ___

 
Social History:
___
Family History:
Diabetes and HTN run in the family.
 
Physical Exam:
Admission Physical Exam:

Vitals: 98.5, 95, 113/48, 18, 96% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, distended, nontender, no rebound or guarding
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: T: 99.1 PO BP: 110/61 HR: 92 RR: 18 O2: 92% 3L 
GEN: alert and oriented, NAD
HEENT: atraumatic, MMM
CV: RRR
PULM: mild rhonchi at bases, clears with cough. Otherwise CTA 
b/l
ABD: soft, non-distended, non-tender to palpation
EXT: +1 edema b/l ___. wwp
 
Pertinent Results:
IMAGING:

ERCP: ___:
The scout film was normal. The major papilla was seen at the 
edge of a duodenal diverticulum.
_x0095_The CBD was successfully cannulated using a Rx sphincterotome 
preloaded with 0.035in guidewire.
_x0095_Contrast injection revealed multiple filling defects in the CBD 
consistent with stones.
_x0095_A biliary sphincterotomy was successfully performed at the 12 
o'clock position. There was no post-sphincterotomy bleeding.
_x0095_The bile duct was swept multiple times using a biliary balloon 
catheter.
_x0095_Multiple stones and large amount of sludge material was 
successfully removed.
_x0095_Final occlusion cholangiogram was not performed given the 
unstable clinical status of the patient during the procedure.
_x0095_There was excellent contrast and bile drainage at the end of 
the procedure.

___: CXR (PA&LAT):
Pulmonary vascular congestion and bibasilar atelectasis.  
Aspiration cannot be excluded. 

___: CT ABD/PEL:
1. Small-bowel obstruction with transition point in the deep 
pelvis and small to moderate volume free fluid. No evidence of 
pneumatosis or pneumoperitoneum. 
2. Postsurgical changes in the anterior abdominal wall with new 
left central fluid collections measuring up to 2.7 x 2.3 cm 
suggestive of an abscess. 
3. Air in the gallbladder of unclear clinical significance, 
correlate with 
history of sphincterotomy.  Sludge or small stone in the 
gallbladder. 
4. Focal ectasia of infrarenal aneurysm measuring 2.4 cm. 

___: ECG:
Sinus rhythm. Non-specific lateral ST-T wave changes in leads I 
and aVL. 
Compared to the previous tracing of ___ the heart rate is 
no longer 
tachycardic. The lateral ST-T wave changes are less pronounced 
and early 
R wave transition is no longer apparent. The leftward axis 
deviation is less pronounced as well. 

___: CXR:
 
Persisting pulmonary vascular congestion and atelectasis.  Small 
bilateral 
pleural effusions. 

___: CXR:
 
1. New moderate right-sided pleural effusion. 
2. Cardiomegaly and pulmonary edema suggestive of congestive 
heart failure. 

___: MR ENTEROGRAPHY (___) SBFT:
1.  No small bowel obstruction. Evaluation for a gallstone 
within the small bowel is markedly limited secondary to 
scattered bowel gas and collapsed loops.  No large stone is seen 
within the small bowel. 
  
2.  Interval resolution of gas seen within the gallbladder on 
the prior CT of the abdomen/pelvis from ___. 
  
3.  Cholelithiasis and distal CBD choledocholithiasis, with a 
few small 
stones, with mildly dilated common bile duct, measuring up to 13 
mm. 

___: ___ PICC W/O PORT:
1.  The accessed vein was patent and compressible. 
2.  Basilicvein approach double lumen right PICC with tip in the 
distal SVC. 

___: CXR:
Interval mild improvement of pulmonary edema, pulmonary vascular 
congestion. Pleural effusions. Basilar consolidations, mildly 
worsened, likely atelectasis, component of aspiration cannot be 
excluded. 

___: CXR:
Compared to chest radiographs ___ through ___. 
  
Even though supine positioning exaggerates the impact of pleural 
effusions, there may have been an increase in already moderate 
right and left pleural effusions.  Positioning also increases 
the apparent severity of mediastinal venous engorgement.  The 
heart is only mildly enlarged.  No apparent pneumothorax even 
though anterior pleural air could be unrecognizable. 
  
Right PIC line ends in the low SVC. 

LABS:

___ 05:50PM   POTASSIUM-5.8*
___ 12:35PM   K+-5.9*
___ 11:15AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 11:15AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD
___ 11:15AM URINE  RBC-3* WBC-6* BACTERIA-FEW YEAST-NONE 
EPI-3
___ 11:15AM URINE  MUCOUS-RARE
___ 10:25AM   GLUCOSE-193* UREA N-37* CREAT-1.2* SODIUM-139 
POTASSIUM-5.9* CHLORIDE-105 TOTAL CO2-23 ANION GAP-17
___ 10:25AM   ALT(SGPT)-13 AST(SGOT)-26 ALK PHOS-91 TOT 
BILI-0.6
___ 10:25AM   LIPASE-10
___ 10:25AM   cTropnT-<0.01
___ 10:25AM   ALBUMIN-3.4*
___ 10:25AM   WBC-11.1* RBC-4.44 HGB-8.1* HCT-30.4* MCV-69* 
MCH-18.2* MCHC-26.6* RDW-21.2* RDWSD-49.7*
___ 10:25AM   NEUTS-79.8* LYMPHS-13.0* MONOS-6.0 EOS-0.5* 
BASOS-0.2 NUC RBCS-1.3* IM ___ AbsNeut-8.85* AbsLymp-1.44 
AbsMono-0.66 AbsEos-0.06 AbsBaso-0.02
___ 10:25AM   PLT SMR-NORMAL PLT COUNT-___ h/o recurrent SBO (last ___ presented with abdominal 
tenderness and obstipation over the past few days concerning for 
SBO, with CT demonstrating possible transition point in lower 
pelvis. On CT scan, air was seen in the gallbladder, giving 
concern for possible gallstone ileus. A MRE was planned to 
examine for gallstone ileus, however the patient developed acute 
on chronic renal failure with decreased UOP, pre-renal in nature 
given FENa 0.4%, likely due to decreased PO intake. Patient's Cr 
increased to 2.2 and developed hyperkalemia requiring 
insulin/glucose, prohibitive of MRE scan. The patient had a 
Foley in place, urine lytes and UA were sent. UA was positive 
for UTI, patient was started on ceftriaxone x3 days. Patient was 
started on gentle maintenance fluids, but also developed an O2 
requirement. CXR demonstrated pulmonary edema. Patient also 
developed intermittent delirium requiring mitts. Multiple 
discussions were had with the patient and HCP regarding goals of 
care. Patient and HCP refused surgery for SBO and NGT for 
gastric decompression unless more information were obtained 
through the MRE. On HD5, the patient had a moderate bowel 
movement, although her abdomen continued to be distended. 
Patient's Cr decreased with mIVF.

On HD8, patient's Cr returned to baseline of 0.9 and she was 
making adequate urine, and so patient finally underwent MRE, 
which demonstrated no SBO or gallstone in small bowel, but 
cholelithiasis and choledocholithiasis was present. NGT was 
finally placed with the patient and family permission. Patient 
had a PICC placed by ___ for poor IV access. Patient was placed 
on gentle D5W due to hypernatremia. LFTs were rechecked for the 
choledocholithiasis seen on MRE, which were within normal. ERCP 
was consulted and agreed to take patient for removal of 
gallstones from common bile duct. Patient's NGT output was low, 
patient removed it herself on HD9. Patient continued to have 
bowel movements and so the NGT was not replaced. On HD11, 
patient went for ERCP where she was intubated for CBD stone 
extraction and sphincterotomy. There was difficulty extubating 
her post-procedure and so she was admitted to the FICU for BiPAP 
and respiratory monitoring. She was finally extubated in the 
FICU and transferred back to ___ to ___.  She was 
stabilized and transferred to the floor on HD12. Her UOP 
continued to be adequate and she was having bowel movements. She 
was evaluated with a bedside swallow test and passed for 
mechanical soft dysphagia diet. She was tolerating PO and so her 
mIVF was stopped. Her Foley was removed and she voided. She was 
evaluated by Physical Therapy which cleared her initially for 
home after ___ more ___ visits. She continued to have bowel 
movements and her abdomen was soft and nontender. 

On ___, the patient had an anxiety attack with HR in the 
140s. EKG showed sinus tachycardia and troponins, CBC and 
electrolytes were sent. CBC and troponins were normal (Trop-T: 
<0.01). Potassium was mildly elevated at 5.6, so she received 
insulin and dextrose and potassium decreased to 4.7. The 
patient's heart rate returned to baseline.      

Given that she would go home with need for 24 hour care, it was 
thought that she would be better at rehab for a short term to 
recover and become more independent, and thus she was rehab 
screened and ready for discharge to rehab. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
2. Mirtazapine 15 mg PO QHS 
3. Docusate Sodium 100 mg PO BID 
4. Calcium Carbonate 500 mg PO QID:PRN heartburn 
5. Aspirin 81 mg PO DAILY 
6. GlipiZIDE 5 mg PO DAILY 

 
Discharge Medications:
1.  GuaiFENesin ER 600 mg PO Q12H  
2.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H  
3.  Multivitamins W/minerals 1 TAB PO DAILY  
4.  Nicotine Patch 14 mg TD DAILY  
5.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
6.  Aspirin 81 mg PO DAILY  
7.  Calcium Carbonate 500 mg PO QID:PRN heartburn  
8.  Docusate Sodium 100 mg PO BID  
9.  GlipiZIDE 5 mg PO DAILY  
10.  Mirtazapine 15 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Small bowel obstruction
Ileus
Acute on chronic renal failure
Choledocholithiasis
Acute respiratory failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you here at ___ 
___. You were admitted to the hospital for 
abdominal pain and were found to have a small bowel obstruction 
and concern for a gallstone ileus (a communication passage 
between the gallbladder and small intestine) on initial CAT scan 
imaging. You also developed an acute kidney injury, most likely 
from dehydration, and you received IV fluids. This kidney injury 
resolved. You later had a temporary tube (nasogastric tube) 
placed in your nose and into stomach to help decompress your 
abdomen. You underwent MRCP imaging which was negative for 
gallstone ileus, but did show you to have gallstones in your 
bile duct. Your nasogastric tube was removed.  You then 
underwent Endoscopic Retrograde Cholangiopancreatogram (ERCP) by 
Gastroenterology and the gallstones were removed. Your diet was 
then advanced and you are now tolerating a regular, soft 
consistency diet.  

You have worked with Physical Therapy and it is recommended you 
be discharged to rehab to continue your recovery.  Please note 
the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___